US07915281B2
A mixture of 2-(4-chloro-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethylamine (1.00 g, 3.28 mmol), cyclopentanone (0.32 mL, 3.6 mmol), and magnesium sulfate in dichloromethane was stirred at room temperature overnight. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in dichloromethane (20 mL) along with N-hydroxyethanimidoyl chloride, which was prepared from acetaldehyde oxime (242 mg, 4.10 mmol) and N-chlorosuccinimide (537 mg, 4.10 mmol) according to the method described in Part G of Example 10. The resulting solution was cooled in an ice bath and triethylamine (0.69 mL, 4.9 mmol) was added. The mixture was allowed to warm slowly to room temperature and stirred overnight. The work-up and purification procedures described in Part G of Example 10 were followed to provide 770 mg of 4-chloro-2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinoline as a clear, colorless oil.

reactant | 2-(4-chloro-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethylamine | 3.28 mmol, 1.00 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCN)COCC | C15H17ClN4O
reactant | cyclopentanone | 3.6 mmol, 0.32 mL | C1(CCCC1)=O | C5H8O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | acetaldehyde oxime | 4.10 mmol, 242 mg | C(C)=NO | C2H5NO
reactant | N-chlorosuccinimide | 4.10 mmol, 537 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | triethylamine | 4.9 mmol, 0.69 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinoline | 770 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCN2C(=NOC21CCCC1)C)COCC | C22H26ClN5O2
